US05017212
2,5,7-Trimethylpyrazolo[1,5-a]pyrimidine
A mixture of 9.7 g of 3-amino-5-methylpyrazole, 13 ml of acetylacetone and 50 ml of isopropanol is heated under reflux for 3 hours. After distilling isopropanol off, the residue is dissolved in dichloromethane, washed with water and dried over anhydrous magnesium sulfate when chloroform is distilled off, 12.7 g of the title compound is obtained as crystals. mp. 70°-73° C.

reactant | 3-amino-5-methylpyrazole | 9.7 g | NC1=NNC(=C1)C | C4H7N3
reactant | acetylacetone | 13 ml | C(C)(=O)CC(C)=O | C5H8O2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2,5,7-Trimethylpyrazolo[1,5-a]pyrimidine | 12.7 g | CC1=NN2C(N=C(C=C2C)C)=C1 | C9H11N3
